US07534797B2
2-Phenyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazoline
A flask containing 7-chloro-2-phenylquinazoline (76 mg, 0.32 mmol) under Ar was charged, minimizing exposure to air, with KOAc (47 mg, 0.47 mmol)), bis(pinacolato)diboron (88 mg, 0.35 mmol) and Pd(PCy3)2 (13 mg, 0.019 mmol). A reflux condenser was attached and the set-up was rapidly evacuated and refilled with Ar (3×). Anh. 1,4-dioxane was added via syringe (5 mL) and the reaction mixture was stirred at rt for 30 min and later heated at 80° C. (bath temperature) for 92 h. The reaction was then evaporated to dryness and purified by flash chromatography (silica gel, 10:1 to 10:3 hexanes:EtOAc then 2:1 hexanes:EtOAc) to afford the title compound as a light yellow solid; 1H NMR (400 MHz, CD2Cl2) δ 9.49 (s, 1H), 8.70-8.60 (m, 2H), 8.51 (s, 1H), 7.94 (s, 2H), 7.60-7.46 (m, 3H), 1.40 (s, 12H).

reactant | 7-chloro-2-phenylquinazoline | 0.32 mmol, 76 mg | ClC1=CC=C2C=NC(=NC2=C1)C1=CC=CC=C1 | C14H9ClN2
reactant | KOAc | 0.47 mmol, 47 mg | CC(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 0.35 mmol, 88 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 2-Phenyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazoline | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=N1)B1OC(C(O1)(C)C)(C)C | C20H21BN2O2
